US04171359
A mixture of 4 g of 6,9-dichloro-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine in 15 ml of formic acid and 10 ml of formaldehyde is refluxed for 18 hours. The mixture is evaporated in vacuo. The residue is treated with 20 ml of 6 N hydrochloric acid. The solution is again evaporated to give a residue which is treated with 20 ml of 10% sodium hydroxide solution then taken into ether. The ethereal extracts are dried and evaporated to give 6,9-dichloro-7,8-dimethoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 6,9-dichloro-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 4 g | ClC1=C(C(=C(C=2C(CNCCC21)C2=CC=CC=C2)Cl)OC)OC | C18H19Cl2NO2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | formic acid | 15 ml | C(=O)O | CH2O2
solvent | formaldehyde | 10 ml | C=O | CH2O
product | 6,9-dichloro-7,8-dimethoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=C(C(=C(C=2C(CN(CCC21)C)C2=CC=CC=C2)Cl)OC)OC | C19H21Cl2NO2
